US04886803
In a dry argon atmosphere, 2-amino-4,6-dimethyl pyridine (4.0 g) was dissolved in dry DMSO (30 ml), 60% sodium hydride (1.30 g) was added and stirred at room temperature for 1 hr. A solution of 1-(N,N-dimethylsulfamoyl)-2-ethoxycarbonyl-5,6-dimethoxybenzimidazole (6.56 g) in DMSO (15 ml) was added dropwise while cooling and stirred at room temperature for 2 hrs. The reaction solution was poured into aqueous saturated ammonium chloride solution and extracted with benzene. The residue obtained by distilling off the solvent was purified by column chromatography on silica gel to obtain N-(4,6-dimethyl-2-pyridyl)-1-(N,N-dimethylsulfamoyl)-5,6-dimethoxybenzimidazole-2-carboxamide (5.40 g). This compound was dissolved in THF (250 ml), and then water (70 ml) and conc. hydrochloric acid (7 ml) were added allowed to react overnight at room temperature under agitation. The reaction solution was neutralized with ammonia water, THF was distilled off and the precipitated crystals were filtered off. The crystals obtained was recrystallized from chloroform/methanol to give the title compound (3.45 g).

reactant | 2-amino-4,6-dimethyl pyridine | 4.0 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | sodium hydride | 1.30 g | [H-].[Na+]
reactant | 1-(N,N-dimethylsulfamoyl)-2-ethoxycarbonyl-5,6-dimethoxybenzimidazole | 6.56 g | CN(S(=O)(=O)N1C(=NC2=C1C=C(C(=C2)OC)OC)C(=O)OCC)C | C14H19N3O6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | N-(4,6-dimethyl-2-pyridyl)-1-(N,N-dimethylsulfamoyl)-5,6-dimethoxybenzimidazole-2-carboxamide | 5.40 g | CC1=CC(=NC(=C1)C)NC(=O)C1=NC2=C(N1S(N(C)C)(=O)=O)C=C(C(=C2)OC)OC | C19H23N5O5S
